US04237137
2,6-Dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid bis-(dimethylphenylsilyl-methyl) ester
10.0 g of dimethylphenylsilylmethyl acetoacetate, 3.0 g of 3-nitrobenzaldehyde and 2.2 ml of concentrated ammonia in 15 ml of 96 percent strength ethanol are heated under reflux for 20 hours. After cooling and filtering, 11.0 g of yellow crystals of melting point 125° C. (ethanol) are obtained.

reactant | dimethylphenylsilylmethyl acetoacetate | 10.0 g | C(CC(=O)C)(=O)OC([SiH2]C1=CC=CC=C1)(C)C | C13H18O3Si
reactant | 3-nitrobenzaldehyde | 3.0 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | ammonia | 2.2 ml | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | 2,6-Dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylic acid bis-(dimethylphenylsilyl-methyl) ester | 11.0 g | CC([SiH2]C1=CC=CC=C1)(C)OC(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC([SiH2]C1=CC=CC=C1)(C)C)C)C | C33H38N2O6Si2
